US07321061B2
Sodium sulfite (4.2 g) was added to a stirred mixture of 1-benzyloxy-2-bromomethyl-benzene (8.9 g), tetrabutylammonium iodide (59 mg) and water (150 ml). The mixture was warmed to reflux for overnight. As the mixture cooled to 0° C., it was acidified by 6N HCl. Extraction by ethyl acetate (100 ml×6) was performed (some remained in the aqueous layer). The combined organic phases were dried over MgSO4. The filtrate was concentrated in vacuo. The product was triturated by ethyl ether to give (2-benzyloxy-phenyl)-methanesulfonic acid (678 mg, 8%). 1H NMR (400 MHz, DMSO-D6): δ ppm 3.82 (s, 2 H) 5.09 (s, 2 H) 6.86 (t, J=7.45 Hz, 1 H) 6.96 (d, J=8.08 Hz, 1 H) 7.14 (t, J=7.83 Hz, 1 H) 7.32 (d, J=7.33 Hz, 1 H) 7.38 (t, J=7.33 Hz, 2 H) 7.46 (d, J=9.09 Hz, 1 H) 7.52 (d, J=7.07 Hz, 2 H).

reactant | Sodium sulfite | 4.2 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-benzyloxy-2-bromomethyl-benzene | 8.9 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CBr | C14H13BrO
reactant | HCl | 6N | Cl | ClH
catalyst | tetrabutylammonium iodide | 59 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 150 ml | O | H2O
product | (2-benzyloxy-phenyl)-methanesulfonic acid | 678 mg, 8% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CS(=O)(=O)O | C14H14O4S
